* Pulse-width charge neuron.
* Encodes activation as output pulse duration above threshold.
.param VDD=0.8
.param VIN=0.1
.param GSUM=100n
.param CINT=10f
.param RLEAK=5Meg
.param VTH=4m
.param TPULSE=10n
.param TSTOP=60n
.param SIGMA=0m
.param NT=100p
.param SEED=1

Vdrive in 0 PULSE(0 {VIN} 0.5n 20p 20p {TPULSE} {TSTOP})
Bsyn 0 int I = {GSUM} * V(in)
Rleak int 0 {RLEAK}
Cint int 0 {CINT} IC=0
Vn n 0 DC 0 TRNOISE({SIGMA} {NT} 0 0)
Bout out 0 V = {VDD} * (V(int)+V(n) > {VTH})

.tran 20p {TSTOP} uic
.meas tran trise WHEN V(out)={VDD/2} RISE=1
.meas tran tfall WHEN V(out)={VDD/2} FALL=1
.meas tran width PARAM='tfall-trise'
.meas tran vmax MAX V(int)
.meas tran ecap_peak PARAM='0.5*CINT*vmax*vmax'

.control
setseed {SEED}
run
print trise tfall width vmax ecap_peak
.endc
.end

