* RC thermal-noise sanity check.
.param RVAL=100k
.param CVAL=10f
Vtest in 0 DC 0 AC 1
R1 in out {RVAL}
C1 out 0 {CVAL}
.noise v(out) Vtest dec 100 1 10G
.print noise onoise_spectrum inoise_spectrum
.end

