* Time-to-threshold charge neuron.
* Encodes activation as firing time, not a multi-bit voltage word.
.param VDD=0.8
.param VIN=0.1
.param GSUM=100n
.param CINT=10f
.param VTH=4m
.param TRESET=0.5n
.param TPULSE=30n
.param TSTOP=40n
.param SIGMA=0m
.param NT=100p
.param SEED=1

Vdrive in 0 PULSE(0 {VIN} {TRESET} 20p 20p {TPULSE} {TSTOP})
Bsyn 0 int I = {GSUM} * V(in)
Cint int 0 {CINT} IC=0
Vn n 0 DC 0 TRNOISE({SIGMA} {NT} 0 0)

* Behavioral spike output. In a real circuit this is a dynamic comparator/latch.
Bspk spk 0 V = {VDD} * (V(int)+V(n) > {VTH})

.tran 20p {TSTOP} uic
.meas tran tfire WHEN V(spk)={VDD/2} RISE=1
.meas tran vint_end FIND V(int) AT={TSTOP}
.meas tran ecap_end PARAM='0.5*CINT*vint_end*vint_end'

.control
setseed {SEED}
run
print tfire vint_end ecap_end
.endc
.end

